US08957080B2
A mixture of 1,2-dichloro-4-(2-methoxy-4-nitrophenoxy)benzene (60 g, 190.40 mmol, 1.00 equiv), Fe(53 g, 946.43 mmol, 4.97 equiv) and ammonium chloride (10 g, 188.68 mmol, 0.99 equiv) in tetrahydrofuran/water (1/2) (600 mL) was stirred overnight at 60° C. under an inert atmosphere of nitrogen. The mixture was filtered through Celite and the filtrate was concentrated under vacuum. The resulting solution was extracted with 3×500 mL of dichloromethane and the organic layers combined. The resulting mixture was washed with 3×500 mL of brine. The mixture was dried over anhydrous magnesium sulfate and concentrated under vacuum to give 40 g (74%) of 4-(3,4-dichlorophenoxy)-3-methoxyaniline as a light gray solid.

reactant | 1,2-dichloro-4-(2-methoxy-4-nitrophenoxy)benzene | 190.40 mmol, 60 g, 1.00 equiv | ClC1=C(C=C(C=C1)OC1=C(C=C(C=C1)[N+](=O)[O-])OC)Cl | C13H9Cl2NO4
reactant | ammonium chloride | 188.68 mmol, 10 g, 0.99 equiv | [Cl-].[NH4+]
solvent | tetrahydrofuran water | 600 mL | O1CCCC1.O
catalyst | Fe | 946.43 mmol, 53 g, 4.97 equiv | [Fe] | Fe
product | 4-(3,4-dichlorophenoxy)-3-methoxyaniline | 40 g, 74% | ClC=1C=C(OC2=C(C=C(N)C=C2)OC)C=CC1Cl | C13H11Cl2NO2
